US08865736B2
2,6-Difluoro-3-[3-(5-methyl-2-phenyl-thiazol-4-yl)-propoxy]-benzamide
3-(5-Methyl-2-phenyl-thiazol-4-yl)-propan-1-ol To a solution of 3-(5-methyl-2-phenyl-thiazol-4-yl)-propan-1-ol (0.219 g, 1.0 mmol) in 5 ml of anhydrous DMF, 2,6-difluoro-3-hydroxybenzamide (0.173 g, 1.0 mmol), PPh3 (0.262 g, 1.0 mmol) and diisopropyl azodicarboxylate (0.202 g, 1.0 mmol) was added. The reaction mixture was stirred at 80° C. for overnight under nitrogen atmosphere. The reaction mixture was evaporated to dryness under reduced pressure and the residue was purified by column chromatography on silica (230-400μ) using ethyl acetate/hexane (35:65) as the eluent to provide the title compound as white solid (0.050 g, 13%). 1H NMR (DMSO-d6, 400 MHz): δ 2.44 (broad s, 3H), 3.14 (t, 2H, J=6.4 Hz), 4.35 (t, 2H, J=6.4 Hz), 7.04 (dt, 1H, J=9.2 Hz (o-coupling), 7.22-7.28 (m, 1H), 7.43-7.49 (m, 3H), 7.83-7.86 (m, 3H), 8.10 (s, 1H); MS ES+(375.15), HPLC (method 5) Rt=10.67 min.

reactant | 3-(5-Methyl-2-phenyl-thiazol-4-yl)-propan-1-ol | CC1=C(N=C(S1)C1=CC=CC=C1)CCCO | C13H15NOS
reactant | 3-(5-methyl-2-phenyl-thiazol-4-yl)-propan-1-ol | 1.0 mmol, 0.219 g | CC1=C(N=C(S1)C1=CC=CC=C1)CCCO | C13H15NOS
reactant | 2,6-difluoro-3-hydroxybenzamide | 1.0 mmol, 0.173 g | FC1=C(C(=O)N)C(=CC=C1O)F | C7H5F2NO2
reactant | PPh3 | 1.0 mmol, 0.262 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.0 mmol, 0.202 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2,6-Difluoro-3-[3-(5-methyl-2-phenyl-thiazol-4-yl)-propoxy]-benzamide | 0.050 g, 13% | FC1=C(C(=O)N)C(=CC=C1OCCCC=1N=C(SC1C)C1=CC=CC=C1)F | C20H18F2N2O2S
